US04547510
E-8-(4-Acetoxy-3-methoxybenzylidene)-5,6,7,8-tetrahydro-4-methylquinoline
A mixture of 5,6,7,8-tetrahydro-4-methylquinoline (5.2 g), vanillin (5.37 g), zinc chloride (0.3 g) and acetic anhydride (50 ml) were refluxed under nitrogen for 16 hours. The solvent was removed by evaporation and the resulting residue was neutralised (Na2CO3) in the presence of ethyl acetate and was then extracted with ethyl acetate.

reactant | 5,6,7,8-tetrahydro-4-methylquinoline | 5.2 g | CC1=CC=NC=2CCCCC12 | C10H13N
reactant | vanillin | 5.37 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 0.3 g | [Cl-].[Zn+2].[Cl-]
product | E-8-(4-Acetoxy-3-methoxybenzylidene)-5,6,7,8-tetrahydro-4-methylquinoline | C(C)(=O)OC1=C(C=C(\C=C\2/CCCC=3C(=CC=NC23)C)C=C1)OC | C20H21NO3
